US06858638B2
Methyl (E)-3-[5(2-methylsulfonylbenzenesulfonylamino)-1-tert-butoxycarbonylindazol-3-yl]acrylate can be obtained in the following way: 74 μL methyl acrylate are added dropwise to a solution, maintained under an atmosphere of argon and at a temperature in the region of 20° C., of 500 mg of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 1.2 ml of diisopropylethylamine, 121 mg of lithium chloride, 11.6 mg of palladium acetate in 15 ml of anhydrous dimethylformamide, and the reaction medium is then heated for 1 hour at 60° C. and then for 1 hour at 80° C. After returning to a temperature in the region of 20° C., 15 ml of distilled water are added and the reaction medium is extracted with ethyl acetate. The pooled organic extracts are washed with distilled water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure. The oil thus isolated is purified by chromatography on a column of silica gel with a cyclohexane/ethyl acetate (80/20 by volume) mixture as eluent. 90 mg of methyl (E)-3-[5(2-methylsulfonylbenzenesulfonylamino)-1-tert-butoxycarbonylindazol-3-yl]acrylate are thus obtained in the form of a white solid (Rf=0.90, silica gel thin layer chromatography, eluent: cyclohexane/ethyl acetate (50/50 by volume)).

reactant | methyl acrylate | 74 μL | C(C=C)(=O)OC | C4H6O2
reactant | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 500 mg | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
reactant | diisopropylethylamine | 1.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | lithium chloride | 121 mg | [Cl-].[Li+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 11.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 15 ml | O | H2O
product | methyl (E)-3-[5(2-methylsulfonylbenzenesulfonylamino)-1-tert-butoxycarbonylindazol-3-yl]acrylate | 90 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)/C=C/C(=O)OC | C23H25N3O8S2
